US08541455B2
A mixture of 1.5 g (5 mmol) of (2,2-dimethyl-1,3-dioxan-5-yl)methyl 4-methylbenzenesulfonate and 10 mL (101 mmol) of cyclopentylamine is heated for 12 hours at 80° C. The medium is concentrated under reduced pressure and then taken up in 200 mL of Et2O, washed with water (2×50 mL) and then dried over Na2SO4 and concentrated under reduced pressure. 1 g of N-[(2,2-dimethyl-1,3-dioxan-5-yl)methyl]cyclopentanamine is obtained in the form of an oil, which is used without further purification in the following step.

reactant | (2,2-dimethyl-1,3-dioxan-5-yl)methyl 4-methylbenzenesulfonate | 5 mmol, 1.5 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1COC(OC1)(C)C | C14H20O5S
reactant | cyclopentylamine | 101 mmol, 10 mL | C1(CCCC1)N | C5H11N
product | N-[(2,2-dimethyl-1,3-dioxan-5-yl)methyl]cyclopentanamine | 1 g, Yield=100% | CC1(OCC(CO1)CNC1CCCC1)C | C12H23NO2
